US03971772
e. 9-Fluoro-11β,17,21-trihydroxy-16α-[ (2-phenyl-2-propenyl)oxy]pregn-4-ene-3,20-dione
The solution of 2-phenyl-3-diazo-1-propene prepared as described above is diluted with 150 ml of cold methanol and stirred well at 0°C as 13 g of 9-fluoro-11β,16α,17,21-tetrahydroxypregn-4-ene-3,20-dione, 16,17-cycloborate is added in portions. The slurry is stirred for 1 hour at 0°C and filtered to give 9.6 g of the title compound. The filtrate is stirred at room temperature for 1 hour with 4 g of the cycloborate and the resulting solution is cooled to 0°C and filtered to give 4.2 g of the title compound. The filtrate is evaporated in vacuo and the residue is dissolved in 400 ml of 3:1 ether-methanol and cooled to -10°C to give a further 3.0 g of material. A small sample recrystallized from acetone-hexane has a melting point of 161°-163.5°C.

reactant | 2-phenyl-3-diazo-1-propene | C1(=CC=CC=C1)C(=C)C=[N+]=[N-] | C9H8N2
reactant | 9-fluoro-11β,16α,17,21-tetrahydroxypregn-4-ene-3,20-dione | 13 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)O)=O)C | C21H29FO6
solvent | methanol | 150 ml | CO | CH4O
product | 9-Fluoro-11β,17,21-trihydroxy-16α-[ (2-phenyl-2-propenyl)oxy]pregn-4-ene-3,20-dione | 9.6 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCC(=C)C2=CC=CC=C2)=O)C | C30H37FO6
